Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
dizzy, left facial droop, left arm weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: 
___ PMH HTN, HLD who presents with acute onset dizziness, left
facial droop and LUE paresis at 1600.

Patient reports that he was sitting down and started to feel
light-headed so he walked to his kitchen to get a glass of water
and then sat down on the couch. He then noticed that his left 
arm
was weak and he had trouble drinking the water so he called for
help. He thought his speech was slightly off, but otherwise did
not have any other symptoms. He denied headache, visual changes,
difficulty with comprehension, parasthesias, gait disturbances.

Initial SBP in 200s, with NIHSS 4 that went to 140s and 0
respectively in 20 minutes. CTA at OSH showed non-occlusive clot
in right distal M1. Due to rapid improvement of symptoms, tPA 
was
not given and he was loaded with ASA. He was transferred to 
___
for further observation/management should he become symptomatic
again and require EVT. 

He has a history of HTN and was previously on amlodipine, but
then had lost a significant amount of weight so was then taken
off. He has never had an episode like this before. He was never
told that he had AFIB or an arrhythmia in the past. There is no
FH of clotting or bleeding disorders, early MIs or early 
strokes.
 

 
Past Medical History:
hypertension
hyperlipidemia
 
Social History:
___
Family History:
no neurologic family history
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals:  HR 73 BP 176/123 RR 18 O2 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5-   5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

DISCHARGE PHYSICAL EXAMINATION
VITALS: ___ 1659 - T97.6, HR65, BP127/86, O2 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive; Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5    

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: normal stance, normal stride
 
Pertinent Results:
MRI-B ___ -   
IMPRESSION:  
1. Acute infarcts of the right putamen, adjacent to the trigone 
of the right 
lateral ventricle and within the right occipital and posterior 
temporal lobes. 
2. No acute intracranial hemorrhage, mass effect or midline 
shift. 
3. Mild cerebellar tonsillar ectopia measuring up to 4 mm below 
the foramen 
magnum without evidence of syrinx or other stigmata to suggest 
Chiari I 
malformation. 

___ 06:25AM BLOOD WBC-7.5 RBC-4.43* Hgb-12.8* Hct-38.2* 
MCV-86 MCH-28.9 MCHC-33.5 RDW-12.0 RDWSD-38.1 Plt ___
___ 07:05PM BLOOD Neuts-85.3* Lymphs-7.5* Monos-6.0 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-11.08* AbsLymp-0.97* 
AbsMono-0.78 AbsEos-0.06 AbsBaso-0.03
___ 06:25AM BLOOD ___ PTT-28.4 ___
___ 06:25AM BLOOD Glucose-104* UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-100 HCO3-26 AnGap-13
___ 06:25AM BLOOD ALT-33 AST-17
___ 07:05PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD Calcium-9.7 Phos-3.9 Mg-2.1
___ 07:05PM BLOOD %HbA1c-5.2 eAG-103
___ 07:05PM BLOOD Triglyc-366* HDL-39* CHOL/HD-6.2 
LDLcalc-130*
___ 06:25AM BLOOD TSH-5.2*
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a medical history 
notable for obesity, hypertension, and hyperlipidemia who 
presented to the hospital with acute onset of dizziness, and 
left face and arm hemiparesis. His initial SBP was >200. His 
hypertension was treated and his deficits resolved. He underwent 
MRI which revealed multifocal right sided infarcts in the 
internal capsule, corpus callosum and posterior parietal lobe. 
He had vessel imaging initially, which was unremarkable. He 
underwent transthoracic echocardiogram followed by 
transesophageal echocardiography which were both unremarkable 
(there was no PFO). Hypercoaguable labs for arterial thrombosis 
were sent (LAC, b2 glycoprotein, cardiolipin ab). Homocysteine 
should be sent as an outpatient. His exam was initially notable 
for left face and arm weakness, but by the end of his 
hospitalization he had no residual focal neurologic deficits. He 
was loaded with aspirin 325mg and then started on aspirin 81mg 
daily as well as atorvastatin 20mg daily. He was counseled to 
avoid alcohol use. He was discharged home in hemodynamically 
stable condition. Etiology of stroke was embolic, but underlying 
reason for this was unclear at time of discharge. Will need 
further follow up outpatient.

TRANSITIONAL ISSUES
- follow up hypercoagulable labs, obtain homocysteine level as 
an outpatient (unable to draw inpatient)
- consider antihypertensive medication to be added as outpatient

================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =130 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ x] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided multifocal embolic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of acute onset dizziness, 
left facial droop, and left arm weakness resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.

Your strokes were relatively small, and you were asymptomatic 
from your stroke by the time of discharge.

We checked blood work and you had ultrasounds of the heart to 
assess for reasons for stroke. Some of the blood work was still 
pending at the time of discharge.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
high cholesterol

We are changing your medications as follows:
START Aspirin 81mg
START Atorvastatin 20mg

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___